US06281356B1
A solution of 6-bromo-1-methyl-1H-indole (6.2 g, 29.5 mmol) in toluene was degassed by bubbling argon through the solution for 10-20 min. Et3N (8.2 mL, 59 mmol), tetrakis(triphenylphosphine)palladium (0) (681 mg, 0.59 mmol) and 1-methyl-5-(tributylstannyl)imidazole (Gaare, K.; Repstad, T.; Benneche, T.; Undheim, K. Acta Chem. Scan. 1993, 47, 57.) (11.6 g, 31.2 mmol) in toluene (30 mL) were added and the mixture was heated to 120° C. for 18 h until Pd black appeared. The mixture was cooled, filtered through a pad of silica gel and the pad was washed well with EtOAc. The filtrate was evaporated and chromatography of the residue over silica gel using 0.5-1% methanol in EtOAc gave 1-methyl-6-(3-methyl-3H-imidazol-4-yl)-1H-indole (5.21 g, 84%) as an off white crystalline solid.

reactant | 6-bromo-1-methyl-1H-indole | 29.5 mmol, 6.2 g | BrC1=CC=C2C=CN(C2=C1)C | C9H8BrN
reactant | Et3N | 59 mmol, 8.2 mL | CCN(CC)CC | C6H15N
reactant | 1-methyl-5-(tributylstannyl)imidazole | 31.2 mmol, 11.6 g | CN1C=NC=C1[Sn](CCCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.59 mmol, 681 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd | [Pd] | Pd
product | 1-methyl-6-(3-methyl-3H-imidazol-4-yl)-1H-indole | 5.21 g, 84% | CN1C=CC2=CC=C(C=C12)C=1N(C=NC1)C | C13H13N3
